US04886814
N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared by analogy to Example 71 by reaction of N-[2-(4-carboxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)-ethanamine in tetrahydrofuran with diborane in tetrahydrofuran and purification of the base on a silica gel column using an ethyl acetate/methanol=20:1 as eluant.

reactant | N-[2-(4-carboxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)-ethanamine | C(=O)(O)COC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CCO | C19H23F3N2O5S
reactant | diborane | B#B | B2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | OCCOC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CCO | C19H25F3N2O4S
